US07989439B2
A solution of 0.14 ml of 1-fluoro-2-isocyanato-4-trifluoromethylbenzene is added at 20° C. to a solution of 0.25 g of 4-[(3-aminobenzyl)methylamino]-1H-pyrazole-3-carboxamide in 25 ml of anhydrous THF. The reaction medium is stirred for 12 hours at 20° C. and then diluted with 100 ml of ethyl acetate. The organic phase is washed with 50 ml of distilled water, and is then separated out by settling of the phases, dried over magnesium sulfate and evaporated to dryness under reduced pressure. The residue obtained is chromatographed on a column of silica (15 g of Merck cartridge silica with a particle size of 15 to 45 μm, column diameter 2.2 cm, 5 ml fractions, flow rate of 10 ml/min, eluent 95/5 dichloromethane/methanol—by volume). Fractions 35 to 95 are combined and evaporated to dryness under reduced pressure. 0.02 g of 4-({3-[3-(2-fluoro-5-trifluoromethylphenyl)ureido]benzyl}methylamino)-1H-pyrazole-3-carboxamide is obtained in the form of a solid. ([M+H]+): 451). RT: 3.55 min (Method A).

reactant | 1-fluoro-2-isocyanato-4-trifluoromethylbenzene | 0.14 ml | FC1=C(C=C(C=C1)C(F)(F)F)N=C=O | C8H3F4NO
reactant | 4-[(3-aminobenzyl)methylamino]-1H-pyrazole-3-carboxamide | 0.25 g | NC=1C=C(CCNC=2C(=NNC2)C(=O)N)C=CC1 | C12H15N5O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 4-({3-[3-(2-fluoro-5-trifluoromethylphenyl)ureido]benzyl}methylamino)-1H-pyrazole-3-carboxamide | 0.02 g | FC1=C(C=C(C=C1)C(F)(F)F)NC(NC=1C=C(CCNC=2C(=NNC2)C(=O)N)C=CC1)=O | C20H18F4N6O2
